US04940710
7-[3-(5-Bromo-2-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid
A 3 g portion of 2-(5-bromo-2-thienyl)piperazine was suspended in 8 ml of dry pyridine. An 820 mg portion of 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid was added and the mixture was heated in a pressure bottle, under argon, at 120°-130° C. for 18 hours, then cooled, filtered and evaporated to dryness. The residue was evaporated from toluene and this residue purified by chromatography, eluting with chloroform:water saturated methanol (9:1). The appropriate fractions were combined, evaporated and recrystallized from dimethylformamide-ether, giving 440 mg of the desired product, mp 233°-235° C. (dec.).

reactant | 2-(5-bromo-2-thienyl)piperazine | BrC1=CC=C(S1)C1NCCNC1 | C8H11BrN2S
reactant | 7-chloro-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | ClC1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C12H9ClFNO3
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 7-[3-(5-Bromo-2-thienyl)-1-piperazinyl]-1-ethyl-6-fluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 440 mg | BrC1=CC=C(S1)C1CN(CCN1)C1=C(C=C2C(C(=CN(C2=C1)CC)C(=O)O)=O)F | C20H19BrFN3O3S
